US03993741
a. synthesis of 1-bromo-2,3-dioctadecyloxypropane
To a solution of 15 g of 1,2-dioctadecyloxy-2-propanol in 450 ml of dimethylformamide 21 g of thionylbromide were added dropwise while stirring and cooling, after which the reaction mixture was heated at 100° C for 5 hours. After cooling down, the resultant mixture was slowly poured into 400 ml of 5% sodium-bicarbonate solution. The aqueous solution was extracted with 4 × 150 ml of diethylether, after which the ether extract was consecutively washed with water, 5% sodium bicarbonate solution and water. After drying on sodium sulphate the solvent was removed under vacuum. The coarse product thus obtained was purified by means of column chromatography. The yield was 14 g of 1-bromo-2,3-dioctadecyloxypropane with a melting point of 38°-38.8° C.

reactant | 1,2-dioctadecyloxy-2-propanol | 15 g | C(CCCCCCCCCCCCCCCCC)OCC(C)(O)OCCCCCCCCCCCCCCCCCC | C39H80O3
reactant | thionylbromide | S(=O)(Br)Br | Br2OS
reactant | sodium bicarbonate | 400 ml | [Na].C([O-])(O)=O
solvent | dimethylformamide | 450 ml, 21 g | CN(C=O)C | C3H7NO
product | 1-bromo-2,3-dioctadecyloxypropane | BrCC(COCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C39H79BrO2
